US07179823B1
A mixture of (1-benzyl-5-propyl-1H-pyrazol-4-yl)methanol (14.99 g), activated manganese dioxide (30.0 g) and, tetrahydrofuran (300 ml) was stirred at room temperature for 3 days. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 1-benzyl-5-propyl-1H-pyrazole-4-carbaldehyde (10.69 g, yield: 72%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | (1-benzyl-5-propyl-1H-pyrazol-4-yl)methanol | 14.99 g | C(C1=CC=CC=C1)N1N=CC(=C1CCC)CO | C14H18N2O
catalyst | manganese dioxide | 30.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-propyl-1H-pyrazole-4-carbaldehyde | 10.69 g, yield: 72% | C(C1=CC=CC=C1)N1N=CC(=C1CCC)C=O | C14H16N2O
